US08013117B2
Fmoc-Ser(tBu)-Tyr(tBu)-OAllyl
According to the general procedure for HBTU promoted coupling, 18.26 g Fmoc-Ser(tBu), 16.95 g HBTU, 11.95 g H-Tyr(tBu)-OAllyl and 26.10 ml DIPEA were reacted in a CYTOS® Lab System in anhydrous DMF at 45° C. and at a total flow rate of 32 ml/min at residence time of 1 min to yield 26.09 g crude material (yield based on HPLC: 96%) which was used in the next step without purification.

reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Fmoc-Ser(tBu) | 18.26 g | N([C@@H](COC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C22H25NO5
reactant | HBTU | 16.95 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | H-Tyr(tBu)-OAllyl | 11.95 g | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OCC=C | C16H23NO3
reactant | DIPEA | 26.10 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | Fmoc-Ser(tBu)-Tyr(tBu)-OAllyl | 26.09 g, 96% | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OCC=C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C38H46N2O7
